US09450195B2
A 100 mL 3-neck flask was charged with copper iodide (0.057 g, 0.301 mmol), 2-bromo-9H-carbazole (7.4 g, 30.1 mmol), 2-iodopyridine (12.3 g, 60.1 mmol), potassium phosphate (12.8 g, 60.1 mmol), (1R,4R)-cyclohexane-1,4-diamine (0.343 g, 3.0 mmol), and dioxane (25 mL) and the reaction mixture was heated at 65° C. for 16 hours. The reaction mixture was then poured into deionized water and extracted with dichloromethane The organic layers were combined and subjected to a column chromatography (neutral Al2O3, 99/1 hexane/EtOAc) to yield 4.2 g (43%) of 2-bromo-9-(pyridin-2-yl)-9H-carbazole as a white solid. The product was confirmed by GC/MS and NMR.

reactant | 2-bromo-9H-carbazole | 30.1 mmol, 7.4 g | BrC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H8BrN
reactant | 2-iodopyridine | 60.1 mmol, 12.3 g | IC1=NC=CC=C1 | C5H4IN
reactant | potassium phosphate | 60.1 mmol, 12.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (1R,4R)-cyclohexane-1,4-diamine | 3.0 mmol, 0.343 g | C1CC(CCC1N)N | C6H14N2
catalyst | copper iodide | 0.301 mmol, 0.057 g | [Cu](I)I
solvent | water | O | H2O
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-9-(pyridin-2-yl)-9H-carbazole | 4.2 g, 43% | BrC1=CC=2N(C3=CC=CC=C3C2C=C1)C1=NC=CC=C1 | C17H11BrN2
